US08242130B2
In a solution of 1-(2,4-dihydroxyphenyl)-2-(4-hydroxyphenyl)-ethanone (2 mmol) in DMF (6 mL), freshly destilled BF3.OEt2 (6.3 mL) was added under argon. The mixture was heated at 50° C., and a solution of methanesulphonyl chloride (1 mL) in dry DMF (1.5 mL) was added slowly. After reaction at 80° C. for 1 h, the mixture was cooled to rt and poured into a large volume of ice cold aq. sodium acetate (12 g/100 mL), then extracted with EtOAc, and the organic layer was dried and concentrated. The residue was purified by column chromatography on silica gel using a mixture of DCM and MeOH to give 7-hydroxy-3-(4-hydroxyphenyl)-chromen-4-one.

reactant | 1-(2,4-dihydroxyphenyl)-2-(4-hydroxyphenyl)-ethanone | 2 mmol | OC1=C(C=CC(=C1)O)C(CC1=CC=C(C=C1)O)=O | C14H12O4
reactant | BF3.OEt2 | 6.3 mL | B(F)(F)F.CCOCC
reactant | methanesulphonyl chloride | 1 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 7-hydroxy-3-(4-hydroxyphenyl)-chromen-4-one | OC1=CC=C2C(C(=COC2=C1)C1=CC=C(C=C1)O)=O | C15H10O4
